US08455522B2
Step 1: Synthesis of 3-Bromo-4-oxiranyl-pyridine
To a solution of sulfonium salt (7.39 g, 33.6 mmol) in DMSO (40 mL) was added sodium hydride (60% in oil, 1.236 g, 30.9 mmol) at room temperature. After 15 min of stirring, 3-Bromo-pyridine-4-carbaldehyde (930 mg, 5 mmol) in DMSO (20 was added slowly at this temperature. After addition, the resulting mixture was stirred for another 30 min, and was subsequently quenched with brine. The mixture was extracted with ethyl acetate twice. The combined extracts were dried over anhydrous Na2SO4. After filtration and concentration, the title compound was obtained (200 mg).

reactant | sulfonium | 33.6 mmol, 7.39 g | [SH3+]
reactant | sodium hydride | 30.9 mmol, 1.236 g | [H-].[Na+]
reactant | 3-Bromo-pyridine-4-carbaldehyde | 5 mmol, 930 mg | BrC=1C=NC=CC1C=O | C6H4BrNO
reactant | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 3-Bromo-4-oxiranyl-pyridine | BrC=1C=NC=CC1C1OC1 | C7H6BrNO
